US09024028B2
(4a) Synthesis of diethyl 2,2-dimethyl-1,3-dioxan-5,5-dicarboxylate (1)
To a clear solution of diethyl bis(hydroxymethyl)malonate in 478 mL (6.52 mol) of acetone and 478 mL (8.45 mol) of acetone dimethylacetal was added 1.1 mL (42 mmol) of concentrated sulfuric acid and the reaction was stirred at room temperature overnight (19 hours). After 120 mL of saturated sodium carbonate was added, the mixture was stirred at room temperature for 15 minutes. The layers were separated and the semi-crystalline residue was washed with acetone (2×250 mL). The organics were evaporated. The residue was dispersed in 500 mL of ether and 250 mL of saturated Na2CO3, and stirred for 20 minutes. After the layers were separated, the organic layer was stirred with 250 mL of brine for 5 minutes and the layers separated. The organic layer was dried, evaporated, and placed under vacuum for 3 hours to produce a colorless oil, 527.5 g, in 94% yield.

reactant | diethyl bis(hydroxymethyl)malonate | OCC(C(=O)OCC)(C(=O)OCC)CO | C9H16O6
reactant | acetone | 6.52 mol, 478 mL | CC(=O)C | C3H6O
reactant | acetone dimethylacetal | 8.45 mol, 478 mL | COC(C)(C)OC | C5H12O2
reactant | sulfuric acid | 42 mmol, 1.1 mL | S(O)(O)(=O)=O | H2O4S
solvent | sodium carbonate | 120 mL | C([O-])([O-])=O.[Na+].[Na+]
product | diethyl 2,2-dimethyl-1,3-dioxan-5,5-dicarboxylate | 94% yield | CC1(OCC(CO1)(C(=O)OCC)C(=O)OCC)C | C12H20O6
